US05646149
Preparation of 6-hydroxy-2,5,7,8-tetramethylchroman-2-acetic acid.
A solution of ethyl 6-acetoxy-2,5,7,8-tetramethylchroman-2-acetate (36.5 g, ~108 mmol) and 50% aqueous sodium hydroxide (110 mL) in a mixture of ethanol (500 mL) and water (500 mL) was stirred at ambient temperature for 7 h. The reaction mixture was extracted with hexane (2×200 mL). The pH of the resulting solution was adjusted to ~2 with concentrated hydrochloric acid. Water (~200 mL) was added and the reaction mixture was cooled in an ice/water bath. Crystallization was induced by scratching with a glass rod and the solid that formed was collected by filtration. The solid was recrystallized from an ethanol/water mixture to give 20.2 g (70.9% yield) of the desired product as a tan solid.

reactant | ethyl 6-acetoxy-2,5,7,8-tetramethylchroman-2-acetate | ~108 mmol, 36.5 g | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(CC(=O)OCC)C)C | C19H26O5
reactant | sodium hydroxide | 110 mL | [OH-].[Na+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | water | 500 mL | O | H2O
product | 6-hydroxy-2,5,7,8-tetramethylchroman-2-acetic acid | 20.2 g, 70.9% yield | OC=1C(=C2CCC(OC2=C(C1C)C)(CC(=O)O)C)C | C15H20O4
